US09193935B2
2.21 (5-(3-tert-Butylcyclohexyl)pent-2-enyl)benzene
Starting from phenethyltriphenylphosphonium bromide (2.60 g, 5.81 mmol, 1.0 equiv.), n-BuLi (1.3 M in hexanes, 4.5 mL, 5.81 mmol, 1.0 equiv.) and 3-(3-tert-butylcyclohexyl)propanal (1.45 g, 7.39 mmol, 1.3 equiv.), 1.01 g (61%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane).

reactant | phenethyltriphenylphosphonium bromide | 5.81 mmol, 2.60 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 5.81 mmol, 1.3 M, 4.5 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(3-tert-butylcyclohexyl)propanal | 7.39 mmol, 1.45 g, 1.3 equiv. | C(C)(C)(C)C1CC(CCC1)CCC=O | C13H24O
product | (5-(3-tert-Butylcyclohexyl)pent-2-enyl)benzene | 1.01 g, 61% | C(C)(C)(C)C1CC(CCC1)CCC=CCC1=CC=CC=C1 | C21H32
